US09101135B2
(6-2) Production of ethyl 3-[N-methyl-N-(2,2,2-trichloroethoxycarbonyl)amino]benzoate
To a suspension of 0.14 g of 60% sodium hydride in 5 ml of tetrahydrofuran was dropwise added a solution of 1.0 g of ethyl 3-(2,2,2-trichloroethoxycarbonylamino)benzoate in 5 ml of tetrahydrofuran, and the resultant mixture was stirred at room temperature. Then, a solution of 0.45 g of dimethyl sulfate in 5 ml of tetrahydrofuran was dropwise added, and the resultant mixture was stirred at room temperature for 3 hours. After water was added to the mixture, the mixture was subjected to extraction with ethyl acetate, and an organic layer was washed twice with water and dried with anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent; hexane ethyl acetate=4:1) to obtain 0.84 g (yield 79%) of the title compound as an oily material.

reactant | sodium hydride | 0.14 g | [H-].[Na+]
reactant | ethyl 3-(2,2,2-trichloroethoxycarbonylamino)benzoate | 1.0 g | ClC(COC(=O)NC=1C=C(C(=O)OCC)C=CC1)(Cl)Cl | C12H12Cl3NO4
reactant | dimethyl sulfate | 0.45 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | ethyl 3-[N-methyl-N-(2,2,2-trichloroethoxycarbonyl)amino]benzoate | 0.84 g, yield 79% | CN(C(=O)OCC(Cl)(Cl)Cl)C=1C=C(C(=O)OCC)C=CC1 | C13H14Cl3NO4
